US06403055B1
B) O-Phenylmethyl-L-serine 1,1-dimethylethylester
To a suspension of O-phenylmethyl-L-serine (50 g; 0.26 mol) in t-butyl acetate (1000 mL; 7.49 mol) 70% perchloric acid was added (50 mL; 0.58 mol). The solution was maintained under stirring for 72 h at 250° C. under inert atmosphere. The reaction mixture was diluted with Et2O (300 mL), then a 10% Na2CO3 aqueous solution was slowly added until pH 9 was reached. The organic layer was separated, dried over Na2SO4 and concentrated. The residual t-butyl acetate was distilled under reduced pressure (40° C.0.1 mm Hg). The desired product was obtained (54.2 g; 0.21 mol). Yield 83%.

reactant | O-phenylmethyl-L-serine | 0.26 mol, 50 g | C1(=CC=CC=C1)COC[C@H](N)C(=O)O | C10H13NO3
reactant | t-butyl acetate | 7.49 mol, 1000 mL | C(C)(=O)OC(C)(C)C | C6H12O2
reactant | perchloric acid | Cl(=O)(=O)(=O)O | ClHO4
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | Et2O | 300 mL | CCOCC | C4H10O
product | O-Phenylmethyl-L-serine 1,1-dimethylethylester | Yield 83% | CC(C)(C)OC([C@@H](N)COCC1=CC=CC=C1)=O | C14H21NO3
